US07816371B2
f. (2R)-2-(5-(2-(3,4-Dichlorophenyl)propanamido)-1-oxoisoquinolin-2(1H)-yl)-3-hydroxy-N-methylpropanamide
A round bottom flask was charged with (2R)-3-(tert-butyldimethylsilyloxy)-2-(5-(2-(3,4-dichlorophenyl)propanamido)-1-oxoisoquinolin-2(1H)-yl)-N-methylpropanamide (60 mg, 0.0001 mol), tetrahydrofuran (3 mL, 0.04 mol) and tetra-n-butylammonium fluoride (0.037 mL, 0.00012 mol) and the reaction stirred at room temperature for 30 minutes during which time the reaction was complete. The solvent was removed under reduced pressure and the residue purified by preparative HPLC (reverse phase) to yield the product as a white solid. MS m/z=463.3 (M+H). 1H NMR (400 MHz; DMSO-d6) δ 10.02 (s, 1H), 8.12 (m, 1H), 8.06 (d, J=8.26 Hz, 1H), 7.74 (t, J=7.29 Hz, 1H), 7.68 (d, J=1.82 Hz, 1H), 7.64 (d, J=8.43 Hz, 1H), 7.51 (dd, J=7.97&3.17 Hz, 1H), 7.46-7.42 (m, 2H), 6.37 (dd, J=5.04&2.04 Hz, 1H), 5.47 (t, J=6.94 Hz, 1H), 5.15-5.13 (m, 1H), 4.05 (q, J=7.24 Hz, 1H), 3.95-3.92 (m, 2H), 2.57 (d, J=4.25 Hz, 3H), 1.47 (d, J=7.22 Hz, 3H).

reactant | (2R)-3-(tert-butyldimethylsilyloxy)-2-(5-(2-(3,4-dichlorophenyl)propanamido)-1-oxoisoquinolin-2(1H)-yl)-N-methylpropanamide | 0.0001 mol, 60 mg | [Si](C)(C)(C(C)(C)C)OC[C@H](C(=O)NC)N1C(C2=CC=CC(=C2C=C1)NC(C(C)C1=CC(=C(C=C1)Cl)Cl)=O)=O | C28H35Cl2N3O4Si
reactant | tetrahydrofuran | 0.04 mol, 3 mL | O1CCCC1 | C4H8O
reactant | tetra-n-butylammonium fluoride | 0.00012 mol, 0.037 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (2R)-2-(5-(2-(3,4-Dichlorophenyl)propanamido)-1-oxoisoquinolin-2(1H)-yl)-3-hydroxy-N-methylpropanamide | ClC=1C=C(C=CC1Cl)C(C(=O)NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)NC)CO)C | C22H21Cl2N3O4
